US06916822B2
(c) 4-(4,4-Dimethyloxazolin-2-yl)-1-(formyloxymethyl)benzene
4-(Formyloxymethyl)-N-(1,1-dimethyl-2-hydroxyethyl)benzamide (64 mg) was added with thionyl chloride (56 μl) and stirred at room temperature for 30 minutes. The solvent was evaporated under reduced pressure, and then the residue was added with water (5 ml) and extracted twice with ethyl acetate (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=2:1) to obtain 37.4 mg of the title compound. Yield: 63%.

reactant | 4-(Formyloxymethyl)-N-(1,1-dimethyl-2-hydroxyethyl)benzamide | 64 mg | C(=O)OCC1=CC=C(C(=O)NC(CO)(C)C)C=C1 | C13H17NO4
reactant | thionyl chloride | 56 μl | S(=O)(Cl)Cl | Cl2OS
product | 4-(4,4-Dimethyloxazolin-2-yl)-1-(formyloxymethyl)benzene | 37.4 mg, Yield: 63% | CC1(N=C(OC1)C1=CC=C(C=C1)COC=O)C | C13H15NO3
